US07615532B2
Mono-benzyl octadecandioate was dissolved in DMF (3.5 mL) and THF (7 mL) and cooled with ice bath. DIEA (0.103 mL) and TSTU were added and the mixture was stirred 1 h at ice bath and at RT overnight. The solvent was evaporated in vacuo and the residue was dissolved in AcOEt and washed twice with 0.2 N HCl, saturated NaHCO3, dried, filtered and evaporated to dryness to give succinimidyl mono-benzyl octadecandioate (0.25 g, 100%).

reactant | Mono-benzyl octadecandioate | C(CCCCCCCCCCCCCCCCC(=O)[O-])(=O)OCC1=CC=CC=C1
reactant | THF | 7 mL | C1CCOC1 | C4H8O
reactant | DIEA | 0.103 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | TSTU | [B-](F)(F)(F)F.CN(C)C(=[N+](C)C)ON1C(=O)CCC1=O
solvent | DMF | 3.5 mL | CN(C)C=O | C3H7NO
product | succinimidyl mono-benzyl octadecandioate | 0.25 g, 100% | C(CCCCCCCCCCCCCCCCC(=O)OCC1=CC=CC=C1)(=O)ON1C(CCC1=O)=O | C29H43NO6
